US07754737B2
A solution of 1-(2-iodophenoxy)-2-nitrobenzene (9.60 g, 28.1 mmol) and SnCl.2H2O (13.0 g, 56.0 mmol) in ethanol (25 mL) and water (5 mL) was refluxed until no starting material remained (˜1 h). The ethanol was removed in vacuo and the aq layer was basified to pH>10 and extracted with CH2Cl2 (4×10 mL). The combined organic layers were dried over Na2SO4, and the solvent was removed to give a crude 2-(2-Iodophenoxy)benzenamine (8.57 g, 98%), which was used for the next step without purification.

reactant | 1-(2-iodophenoxy)-2-nitrobenzene | 28.1 mmol, 9.60 g | IC1=C(OC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C12H8INO3
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 2-(2-Iodophenoxy)benzenamine | 8.57 g, 98% | IC1=C(OC2=C(C=CC=C2)N)C=CC=C1 | C12H10INO
